US05773530
4-Aminobutyric acid (7.5 g) was dissolved in a mixture of tetrahydrofuran (80 ml) and water (80 ml), which was cooled at 0° to 5° C. in an ice bath. To a resulting mixture was added dropwise benzyloxycarbonyl chloride (10.4 ml) with maintaining the pH from pH 8.0 to 9.0 with 30% aqueous sodium hydroxide solution at 0° to 5° C. The reaction mixture was washed with ethyl acetate (300 ml) and aqueous layer was separated, which was adjusted to pH 1.0 with 6N-aqueous hydrochloric acid and extracted with ethyl acetate (300 ml). Organic layer was separated, washed with brine (100 ml×2) and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was dissolved in methanol (200 ml) and added conc. sulfic acid (1 ml). The resulting solution was refluxed for 3 hours. Evaporation of the solvent gave a residue, which was dissolved in ethyl acetate (300 ml), washed in turn with water (100 ml), saturated sodium hydrogen carbonate in water (100 ml×3) and brine (100 ml×2), and dried over magnesium sulfate. Solvent was removed under reduced pressure to give methyl 4-(benzyloxycarbonylamino)butyrate (14.65 g).

reactant | 4-Aminobutyric acid | 7.5 g | NCCCC(=O)O | C4H9NO2
reactant | benzyloxycarbonyl chloride | 10.4 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | 80 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-(benzyloxycarbonylamino)butyrate | 14.65 g | C(C1=CC=CC=C1)OC(=O)NCCCC(=O)OC | C13H17NO4
